US07985769B2
A DMF (15 mL) solution of 3-Amino-5-phenyl-thiophene-2-carboxylic acid methyl ester (500 mg, 21.5 mmol) was cooled to 0° C. and then isopropyl iodide (2.57 mL) and NaH (60%, 775 mg, 32.3 mmol) were added under an atmosphere of N2. The ice bath was removed and the reaction mixture was stirred at room temperature for 1 h. The mixture was partitioned between ether and water, the ether layer was separated, dried (Na2SO4) and concentrated. The residue was purified by silica gel column chromatography using ethyl acetate and hexane (5:95) as eluent to obtain 3-isopropylamino-5-phenyl-thiophene-2-carboxylic acid methyl ester (189 mg, 32%) as a solid. 1H NMR (CDCl3, 400 MHz): 7.62 (d, 2H), 7.40 (m, 3H), 6.91 (s, 1H), 3.84 (s, 3H), 1.35 (d, 6H).

reactant | 3-Amino-5-phenyl-thiophene-2-carboxylic acid methyl ester | 21.5 mmol, 500 mg | COC(=O)C=1SC(=CC1N)C1=CC=CC=C1 | C12H11NO2S
reactant | isopropyl iodide | 2.57 mL | C(C)(C)I | C3H7I
reactant | NaH | 32.3 mmol, 775 mg | [H-].[Na+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 3-isopropylamino-5-phenyl-thiophene-2-carboxylic acid methyl ester | 189 mg, 32% | COC(=O)C=1SC(=CC1NC(C)C)C1=CC=CC=C1 | C15H17NO2S
